US07202367B2
Preparation of 1-(4′-aminophenyl)-1H-pyrazole
General procedure B (82° C., 42 hours) was followed using 117 mg of Chxn-Py-Al (0.4 mmoles), 516 mg of 4-bromoaniline (3 mmoles), 136 mg of pyrazole (2 mmoles) and 1.2 ml of acetonitrile.

reactant | 4-bromoaniline | 3 mmoles, 516 mg | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | pyrazole | 2 mmoles, 136 mg | N1N=CC=C1 | C3H4N2
solvent | acetonitrile | 1.2 ml | C(C)#N | C2H3N
product | 1-(4′-aminophenyl)-1H-pyrazole | NC1=CC=C(C=C1)N1N=CC=C1 | C9H9N3
